US08440830B2
To a solution of 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate (1.0 eq) in DMF was added benzyl bromide (1.0 eq.) and heated to 80° C. for 4 hrs. Reaction mixture was evaporated to dryness. The product obtained was dissolved aqueous ethanol and NaBH4 (1.5 eq.) was added at 0° C. and stirred for 4 hrs. Reaction was quenched with water, extracted with dichloromethane, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded ethyl 6-benzyl-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate.

reactant | 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | 1.0 eq | N1(C(=CC=2C1=CN=CC2)C(=O)OCC)C(=O)OC(C)(C)C | C15H18N2O4
reactant | benzyl bromide | 1.0 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | C(C)O | C2H6O
reactant | NaBH4 | 1.5 eq. | [BH4-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 6-benzyl-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | C(C1=CC=CC=C1)N1CC2=C(CC1)C=C(N2)C(=O)OCC | C17H20N2O2
